US08633212B2
A 10 mL microwave tube was charged with 5′-bromo-5,6,8,9-tetrahydro-3′H-spiro[benzo[7]annulene-7,2′-benzofuran]-3′-one (0.0573 g, 0.167 mmol), 3-chloro-5-fluorophenylboronic acid (0.0930 g, 0.53 mmol), Cs2CO3 (0.2537 g, 0.78 mmol), 1,4-dioxane (4 mL), water (1 mL), and PdCl2(PPh3)2 (0.0118 g, 0.0168 mmol). The tube was heated in a CEM microwave reactor at 110° C. for 30 min. The reaction mixture was diluted with CH2Cl2 and dried over Na2SO4. After the solvent was evaporated under reduced pressure, the residue was purified by chromatography on silica gel eluted with hexanes/ethyl acetate to afford 0.0607 g (92%) of 5′-(3-chloro-5-fluorophenyl)-5,6,8,9-tetrahydro-3′H-spiro[benzo[7]annulene-7,2′-benzofuran]-3′-one. LC-MS tR=2.55 min in 3 min chromatography, m/z 393, 395 (MH+).

reactant | 5′-bromo-5,6,8,9-tetrahydro-3′H-spiro[benzo[7]annulene-7,2′-benzofuran]-3′-one | 0.167 mmol, 0.0573 g | BrC=1C=CC2=C(C(C3(O2)CCC2=C(CC3)C=CC=C2)=O)C1 | C18H15BrO2
reactant | 3-chloro-5-fluorophenylboronic acid | 0.53 mmol, 0.0930 g | ClC=1C=C(C=C(C1)F)B(O)O | C6H5BClFO2
reactant | Cs2CO3 | 0.78 mmol, 0.2537 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | PdCl2(PPh3)2 | 0.0168 mmol, 0.0118 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 1 mL | O | H2O
product | 5′-(3-chloro-5-fluorophenyl)-5,6,8,9-tetrahydro-3′H-spiro[benzo[7]annulene-7,2′-benzofuran]-3′-one | 0.0607 g, 92% | ClC=1C=C(C=C(C1)F)C=1C=CC2=C(C(C3(O2)CCC2=C(CC3)C=CC=C2)=O)C1 | C24H18ClFO2
